US08729102B2
B) 2-[4-(benzyloxy)phenyl]-6-(cyclopropylmethoxy)-2H-indazole
A mixture of 6-(cyclopropylmethoxy)-1H-indazole (376 mg), 1-(benzyloxy)-4-bromobenzene (632 mg), copper(I) iodide (38.1 mg), (1RS,2RS)—N,N′-dimethylcyclohexane-1,2-diamine (114 mg), tripotassium phosphate (892 mg) and toluene (2 mL) was stirred under an argon atmosphere at 110° C. overnight. The reaction mixture was diluted with ethyl acetate and water, and filtered through celite. The organic layer separated from the obtained filtrate was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give a mixture (741 mg) of the title compound and 1-[4-(benzyloxy)phenyl]-6-(cyclopropylmethoxy)-1H-indazole.

reactant | 6-(cyclopropylmethoxy)-1H-indazole | 376 mg | C1(CC1)COC1=CC=C2C=NNC2=C1 | C11H12N2O
reactant | 1-(benzyloxy)-4-bromobenzene | 632 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)Br | C13H11BrO
reactant | (1RS,2RS)—N,N′-dimethylcyclohexane-1,2-diamine | 114 mg | CNC1C(CCCC1)NC | C8H18N2
reactant | tripotassium phosphate | 892 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
catalyst | copper(I) iodide | 38.1 mg | [Cu]I
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(benzyloxy)phenyl]-6-(cyclopropylmethoxy)-2H-indazole | 741 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=C2C=C(C=CC2=C1)OCC1CC1 | C24H22N2O2
